US08497368B2
N′-(6-Chloropyridazin-3-yl)-2-(quinolin-6-yl)acetohydrazide (ii)
To a suspension of 3-chloro-6-hydrazinylpyridazine (3 g, 20.75 mmol) and 2-(quinolin-6-yl)acetic acid (4.27 g, 22.83 mmol) in 200 ml DCM was added DCC (5.14 g, 24.90 mmol). The solution was stirred at room temperature for overweekend. The title compound as a white solid containing dicyclohexyl urea was filtered and used in the next step without further purification (8 g, 100%). LCMS (method A): [MH]+=314.1, tR=2.85 min.

reactant | 3-chloro-6-hydrazinylpyridazine | 20.75 mmol, 3 g | ClC=1N=NC(=CC1)NN | C4H5ClN4
reactant | 2-(quinolin-6-yl)acetic acid | 22.83 mmol, 4.27 g | N1=CC=CC2=CC(=CC=C12)CC(=O)O | C11H9NO2
reactant | DCC | 24.90 mmol, 5.14 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | dicyclohexyl urea | C1(CCCCC1)NC(=O)NC1CCCCC1 | C13H24N2O
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
product | N′-(6-Chloropyridazin-3-yl)-2-(quinolin-6-yl)acetohydrazide | ClC1=CC=C(N=N1)NNC(CC=1C=C2C=CC=NC2=CC1)=O | C15H12ClN5O
